US05608056
A solution of (2R,4S)-1-allyloxycarbonyl-2-(2aminoethyl)4-(triphenylmethylthio) pyrrolidine (5.78 g) and 1-(2,4-dinitrophenyl)pyridinium chloride (4.19 g) in n-butanol (60 ml) was stirred under reflux condition for 4 hours, and then evaporated under reduced pressure. The residue was column chromatographed on silica gel (chloroform:methanol=5:1 to 4:1) to give (2R,4S)-1-allyloxycarbonyl-2-{2-(1-pyridinio)ethyl}-4(triphenylmethylthio)pyrrolidine chloride (5.88 g).

reactant | (2R,4S)-1-allyloxycarbonyl-2-(2aminoethyl)4-(triphenylmethylthio) pyrrolidine | 5.78 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN | C29H32N2O2S
reactant | 1-(2,4-dinitrophenyl)pyridinium chloride | 4.19 g | [Cl-].[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[N+]1=CC=CC=C1
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | (2R,4S)-1-allyloxycarbonyl-2-{2-(1-pyridinio)ethyl}-4(triphenylmethylthio)pyrrolidine chloride | 5.88 g | [Cl-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC[N+]1=CC=CC=C1 | InChI=1S/C34H35N2O2S.ClH/c1-2-25-38-33(37)36-27-32(26-31(36)21-24-35-22-13-6-14-23-35)39-34(28-15-7-3-8-16-28,29-17-9-4-10-18-29)30-19-11-5-12-20-30;/h2-20,22-23,31-32H,1,21,24-27H2;1H/q+1;/p-1/t31-,32+;/m1./s1
